US08809371B2
H2O (353 mg), WSC.HCl (460 mg), diisopropylethylamine (986 mg), and ammonium chloride (500 mg) were added to a DMF (5 ml) solution containing 2-((tert-butoxycarbonyl)amino)-2-cyclopropyl acetic acid (500 mg) at room temperature, followed by stirring at room temperature for 3 hours. A saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The resultant was dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, and a white solid of tert-butyl(2-amino-1-cyclopropyl-2-oxoethyl)carbamate (500 mg) was thus obtained.

reactant | WSC.HCl | 460 mg | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylethylamine | 986 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 500 mg | [Cl-].[NH4+]
reactant | 2-((tert-butoxycarbonyl)amino)-2-cyclopropyl acetic acid | 500 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C1CC1 | C10H17NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | H2O | 353 mg | O | H2O
product | tert-butyl(2-amino-1-cyclopropyl-2-oxoethyl)carbamate | 500 mg | C(C)(C)(C)OC(NC(C(=O)N)C1CC1)=O | C10H18N2O3
